US06774132B1
1′-Propylspiro[4-azaindoline-3,3′-piperidin]-2-one
tert-Butyl 3-[(2-bromo-3-pyridyl)carbamoyl]-1,2,5,6-tetrahydropyridine-1-carboxylate. 2-Bromo-3-pyridineamine (3.0 g, 17.3 mmol) and 1,2,5,6-tetrahydro-1,3-pyridinedicarboxylic acid 1-tert-butyl ester 3-methyl ester (5.05 g, 20.8 mmol) were dissolved in DCM (80 ml). To the solution trimethylaluminium (26 mmol, 2M solution) was slowly added at 0° C. The mixture was refluxed overnight. Work-up and purification on silica gel using 60% ethyl acetate in heptane as an eluent gave 5.65 g (85%) of the title compound.

reactant | tert-Butyl 3-[(2-bromo-3-pyridyl)carbamoyl]-1,2,5,6-tetrahydropyridine-1-carboxylate | BrC1=NC=CC=C1NC(=O)C=1CN(CCC1)C(=O)OC(C)(C)C | C16H20BrN3O3
reactant | 2-Bromo-3-pyridineamine | 17.3 mmol, 3.0 g | BrC1=NC=CC=C1N | C5H5BrN2
reactant | 1,2,5,6-tetrahydro-1,3-pyridinedicarboxylic acid 1-tert-butyl ester 3-methyl ester | 20.8 mmol, 5.05 g | COC(=O)C=1CN(CCC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | trimethylaluminium | 26 mmol, 2M | C[Al](C)C
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | 1′-Propylspiro[4-azaindoline-3,3′-piperidin]-2-one | 5.65 g, 85% | C(CC)N1CC2(CCC1)C(NC1=CC=CN=C12)=O | C14H19N3O
